US07615562B2
Step D: {4-[5-(3-Amino-3-methyl-but-1-ynyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
{4-[5-Bromothiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (100 mg, 0.253 mmol), PdCl2(PPh3)2 (18 mg, 0.025 mmol), 1,1-dimethyl-prop-2-ynylamine (0.03 ml, 0.253 mmol) and CuI (15 mg) were dissolved in triethylamine (25 ml) and refluxed for 1 hour. The reaction mixture was filtered, evaporated to dryness and taken up in DCM, filtered and evaporated again and the residue crystallized from ether to give the title compound as red-yellow crystals. Yield: 50 mg (50%).

reactant | {4-[5-Bromothiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 0.253 mmol, 100 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C17H23BrN4S
reactant | 1,1-dimethyl-prop-2-ynylamine | 0.253 mmol, 0.03 ml | CC(C#C)(C)N | C5H9N
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.025 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 15 mg | [Cu]I
product | {4-[5-(3-Amino-3-methyl-but-1-ynyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | NC(C#CC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)(C)C | C22H31N5S
